US06350749B1
To a solution of 5-(2-chlorophenyl)-3-mercapto-2-cyclohexen-1-one (1.8 g) and chloroacetone (0.7 g) in ethanol (20 ml) was added a solution of 20% sodium ethoxide in ethanol (0.48 g), and the mixture was stirred at room temperature for 5 hours. The reaction solution was concentrated under reduced pressure, and to the residue was ethyl acetate. The mixture was subjected to extraction, and the organic layer was washed with water and saturated brine, dried with magnesium sulfate and concentrated under reduced pressure to give 5-(2-chlorophenyl)-3-(2-oxopropylthio)-2-cyclohexen-1-one (2.3 g).

reactant | 5-(2-chlorophenyl)-3-mercapto-2-cyclohexen-1-one | 1.8 g | ClC1=C(C=CC=C1)C1CC(=CC(C1)=O)S | C12H11ClOS
reactant | chloroacetone | 0.7 g | ClCC(C)=O | C3H5ClO
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 0.48 g | C(C)O | C2H6O
product | 5-(2-chlorophenyl)-3-(2-oxopropylthio)-2-cyclohexen-1-one | 2.3 g | ClC1=C(C=CC=C1)C1CC(=CC(C1)=O)SCC(C)=O | C15H15ClO2S
